*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6T(-55to105[deg])/2.20e+00[uF]/6.3[V]
* Murata P/N :GRM155D80J225KE95
* Property : C = 2.20e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155D80J225KE95 Port1 Port2
C01 Port1 N01 1.58e-06
R01 Port1 N01 2.27e+07
L02 N01 N02 1.16e-10
R03 N02 N03 1.22e-02
C04 N03 N04 3.80e-05
R04 N03 N04 1.46e+02
C05 N04 N05 6.07e-05
R05 N04 N05 9.07e+00
C06 N05 N06 9.06e-05
R06 N05 N06 6.16e-01
C07 N06 N07 9.72e-05
R07 N06 N07 5.66e-02
C08 N07 N08 4.65e-05
R08 N07 N08 1.18e-02
L09 N08 N09 5.44e-11
R09 N08 N09 3.11e-01
L10 N09 N10 9.06e-11
R10 N09 N10 4.09e-02
C11 N10 N11 3.11e-07
L11 N10 N11 1.40e-10
R11 N10 N11 7.62e-03
C12 N11 Port2 2.61e-12
L12 N11 Port2 7.06e-11
R12 N11 Port2 2.46e+02
.ENDS GRM155D80J225KE95
